US06734191B2
AMD9726: Preparation of (4-allylaminomethyl-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine
To a solution of N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (200 mg, 0.39 mmol) in CH2Cl2 (˜0.4 mL) was added N,N-diisopropylethylamine (90 μL, 0.52 mmol). Allyl bromide (35 μL, 0.40 mmol) was dissolved in CH2Cl2 (˜9.6 mL) and added to the amine mixture at a rate of 5.5 mL/hour. The resultant mixture was stirred at room temperature for 24 hours. The reaction mixture was diluted with CH2Cl2 (50 mL) and washed consecutively with H2O (5 mL), saturated aqueous NaHCO3 (5 mL) and saturated aqueous NaCl (5 mL). The aqueous layer was extracted with CH2Cl2 (20 mL) and the combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. Purification by column chromatography on silica gel (200:1:1 followed by 100:1:1—EtOAc:MeOH:NH4OH) followed by radial chromatography on silica gel (250:1:1—EtOAc:MeOH:NH4OH) afforded AMD9725 (36 mg, 21%) as a light yellow foam. 1H NMR (CDCl3) δ1.56-1.75 (m, 1H), 1.97-2.08 (m, 2H), 2.24-2.31 (m, 1H), 2.65-2.77 (m, 1H), 2.77-2.91 (m, 1H), 3.21 (d, 2H, J=5.7 Hz), 3.69 (s, 2H), 3.73 (s, 2H), 3.97 (d, 1H, J=16.8 Hz), 4.04-4.16 (m, 1H), 4.17 (d, 1H, J=16.8 Hz), 5.07 (d, 1H, J=9.9 Hz), 5.15 (dd, 1H, J=17.1, 1.2 Hz), 5.88 (ddt, 1H, J=17.1, 10.5, 6.0 Hz), 7.10-7.19 (m, 5H), 7.35 (d, 2H, J=7.8 Hz), 7.42 (d, 1H, J=7.5 Hz), 7.45-7.57 (m, 1H), 7.58-7.68 (m, 1H), 8.69 (d, 1H, J 4.2 Hz); 13C NMR (CDCl3) δ20.83, 22.89, 28.67, 47.95, 51.11, 52.33, 53.17, 59.68, 110.37, 115.39, 118.11, 120.91, 121.66, 127.59, 128.07, 134.13, 136.17, 136.60, 137.48, 138.56, 146.38, 155.80, 156.94. ES-MS m/z 438.3 (M+H). Anal. Calcd. for C28H31N5.0.8H2O: C, 74.40; H, 7.27; N, 15.49. Found: C, 74.36; H, 7.25; N, 15.31.

reactant | N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.39 mmol, 200 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | N,N-diisopropylethylamine | 0.52 mmol, 90 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Allyl bromide | 0.40 mmol, 35 μL | C(C=C)Br | C3H5Br
solvent | CH2Cl2 | ˜0.4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | ˜9.6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (4-allylaminomethyl-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | C(C=C)NCC1=CC=C(CN(C2CCCC=3C=CC=NC23)CC2=NC3=C(N2)C=CC=C3)C=C1 | C28H31N5
